US07786108B2
Synthesis of (S)-9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2,3,6,7,8,9-hexahydro-1H-5-aza-cyclohepta[f]indene-5-carboxylic acid 2-carboxy-2-methyl-propyl ester
Add aqueous 5 M NaOH (2.4 mL, 12 mmol) to a solution of (S)-9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2,3,6,7,8,9-hexahydro-1H-5-aza-cyclohepta[f]indene-5-carboxylic acid 2-methoxycarbonyl-2-methyl-propyl ester (86 mg, 0.13 mmol) in methanol (3.4 mL). Heat the mixture at 60° C. for 1 h. Cool down to room temperature. Dilute with water and neutralize with 2 M HCl. Extract aqueous phase with ethyl acetate. Dry organic layers with anhydrous sodium sulphate and evaporate the solvent. Purify the residue by chromatography (elution with dichloromethane/methanol) to afford the title compound (62 mg, 73%). MS (ES+): 655 (M+H).

reactant | NaOH | 12 mmol, 5 M, 2.4 mL | [OH-].[Na+]
reactant | (S)-9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2,3,6,7,8,9-hexahydro-1H-5-aza-cyclohepta[f]indene-5-carboxylic acid 2-methoxycarbonyl-2-methyl-propyl ester | 0.13 mmol, 86 mg | COC(=O)C(COC(=O)N1CCC[C@@H](C2=CC=3CCCC3C=C21)N(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)(C)C | C31H34F6N6O4
reactant | HCl | 2 M | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3.4 mL | CO | CH4O
solvent | water | O | H2O
product | (S)-9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-2,3,6,7,8,9-hexahydro-1H-5-aza-cyclohepta[f]indene-5-carboxylic acid 2-carboxy-2-methyl-propyl ester | 62 mg, 73% | C(=O)(O)C(COC(=O)N1CCC[C@@H](C2=CC=3CCCC3C=C21)N(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)(C)C | C30H32F6N6O4
